US04144338
A. 2-(2-Dimethylaminoethylamino)-5,6-dimethyl pyrazine.
2-chloro-5,6-dimethylpyrazine (12.8 g., 0.09 mole) is added to unsym-dimethylethylenediamine (26 g., 0.295 mole) containing cuprous chloride (0.25 g.) and the mixture is heated for 48 hours in an oil bath maintained at 135°-140° C. On cooling, 50 ml of water and a single molar excess of 10N sodium hydroxide are added. The mixture is extracted with methylene chloride. The organic extracts are backwashed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated under vacuum. The residual oil is dissolved in hexane, filtered and reconcentrated to obtain the product oil (15.8 g., 0.081 mole).

reactant | 2-chloro-5,6-dimethylpyrazine | 0.09 mole, 12.8 g | ClC1=NC(=C(N=C1)C)C | C6H7ClN2
reactant | unsym-dimethylethylenediamine | 0.295 mole, 26 g | CN(C)CCN | C4H12N2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-(2-Dimethylaminoethylamino)-5,6-dimethyl pyrazine | CN(CCNC1=NC(=C(N=C1)C)C)C | C10H18N4
